Name:  ___.             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
___ recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
acute on chronic SDH 
C5-7 listhesis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo F who sustained fall - railing on stairwell gave way and 
she fell off first step with head hitting bottom hinge of 
doorway behind her.  she had LOC <1 min. initially groggy, but 
returned to baseline MS.  ___.  pt transported to ___ 
___ where CTH and Cspine performed. CTH with acute on 
chronic SDH with Cspine without fracture (C5-7 listhesis).  With 
SDH, pt loaded with dilantin and transported to ___ for 
evaluation.

 
Past Medical History:
HTN
HL
NPH s/p VPS ___ yrs previously
anxiety

 
Social History:
___
Family History:
NC
 
Physical Exam:
T 97.3 HR 88   BP 131/67   RR 20 Sat 97   % on RA
PE:  General NAD
HEENT AT/NC, MMM no lesions
Neck Supple, no bruits
Chest CTA B
___ RRR, no m/r/g
ABD soft, NTND, + BS
EXT no C/C/E, no rashes or petechiae

 
Pertinent Results:
___ 09:55AM BLOOD WBC-9.3 RBC-3.94* Hgb-12.9 Hct-36.1 
MCV-92 MCH-32.9* MCHC-35.9* RDW-13.4 Plt ___
___ 09:55AM BLOOD Neuts-85.5* Lymphs-11.8* Monos-2.3 
Eos-0.3 Baso-0.1
___ 09:55AM BLOOD Plt ___
___ 02:00AM BLOOD ___ PTT-25.4 ___
___ 09:55AM BLOOD Glucose-125* UreaN-18 Creat-0.8 Na-141 
K-4.5 Cl-104 HCO___-23 AnGap-19
___ 09:55AM BLOOD Calcium-9.8 Phos-4.2 Mg-1.7
___ 09:55AM BLOOD Phenyto-9.9*
___ 02:00AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

CT Head : **** Preliminary Report****
FINDINGS:  There is a ventricular catheter extending across the 
right parietal lobe into the occipital horn of the right lateral 
ventricle, its tip located in the midline roughly 6 mm 
apparently anterior to the ventricle.  Note is made of bilateral 
heterogeneous subdural fluid collections tracking along the 
convexities.  There does not appear to be the definite shift of 
normally midline structures.  The ventricular size is difficult 
to evaluate given the lack of priors.  The third ventricle is 
somewhat prominent.  The osseous structures appear unremarkable. 
 In widest dimension, the left subdural measures about 8 mm and 
the right measures about 6 mm (2:22). 
  
IMPRESSION: 
1.  Bilateral heterogeneous subdural hematomas as described 
above. 
2.  Ventricular catheter which appears to extend more anteriorly 
than would be ideal. 

C-SPINE FLEX AND EXT ON: Prelim results
degenerative changes in cervical spine, no malalignment in 
flexion or extension views. Not a complete study due to lack of 
view of bottom of C7/T1.

 
Brief Hospital Course:
___ yo F who sustained fall - railing on stairwell gave way and 
she fell off first step with head hitting bottom hinge of 
doorway behind her.  She reprted LOC <1 min. She was initially 
groggy, but returned to baseline MS without ___.  ___ was 
transported to ___ where ___ and Cspine performed. 
___ showed acute on chronic SDH with Cspine without fracture 
(C5-7 listhesis).  The ___ was loaded with dilantin and 
transported to ___ for further evaluation.

Briefly, Mrs. ___ was admitted for evaluation and imaging of 
her head and C-spine. CT of her head revealed bilateral subdural 
hematomas without shift of midline structures. The xray of the 
C-spine showed no malalignment of structures in flexion or 
extension views, no fractures only degenerative changes. The 
___ denied any pain, numbness or tingling when the ___ J 
collar was removed when acquiring the cervical spine xrays. The 
___ was then switched to a soft cervical collar for 
stabilization of her cervical spine. The ___ neurologic 
status remained at her baseline througout her admission. The 
___ was discharged home with a prescription for Dilantin for 
ten days and with instructions to wear a soft cervical collar 
for 8 weeks until her follow up appointment with Dr. ___. She 
is to get another head CT prior to her follow up visit with Dr. 
___.

 
Medications on Admission:
atenolol 25 QD
lipitor 10 QD
 
Discharge Medications:
1. Phenytoin Sodium Extended 100 mg Capsule Sig: One (1) Capsule 
PO TID (3 times a day) for 10 days.
Disp:*30 Capsule(s)* Refills:*0*
2. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute on Chronic SDH after fall
Retrolisthesis C5/6

 
Discharge Condition:
Good, neurologically stable

 
Discharge Instructions:
DISCHARGE INSTRUCTIONS

•Take your pain medicine as prescribed
•Exercise should be limited to walking; no lifting, straining, 
•Increase your intake of fluids and fiber as pain medicine 
(narcotics) can cause constipation
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, aspirin, Advil, 
Ibuprofen etc. 
•If you have been prescribed an anti-seizure medicine, take it 
as prescribed and follow up with laboratory blood drawing as 
ordered

Please keep your soft collar on at all times for 8 weeks, until 
your follow up appointment with Dr. ___.

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING:

•New onset of tremors or seizures
•Any confusion or change in mental status 
•Any numbness, tingling, weakness in your extremities
•Pain or headache that is continually increasing or not 
relieved by pain medication
•Fever greater than or equal to 101° F

 
Followup Instructions:
___